US07858643B2
Diethylazodicarboxylate (0.48 mL, 3.1 mmol) was added to a 0° C. solution of triphenylphosphine (0.80 g, 3.1 mmol) in THF (20 mL). After stirring for 5 minutes, 4-bromopyrazole (0.30 mg, 2.0 mmol) was added. After another 5 minutes of stirring, (2-hydroxyethyl)-methyl-carbamic acid tert-butyl ester (0.45 g, 2.6 mmol) was added. The reaction was allowed to warm to room temperature and stir overnight. The reaction was cooled to 0° C. and filtered. The filtrate was concentrated by rotary evaporation. The residue was purified by silica gel chromatography using gradient elution of dichloromethane, ethyl acetate to afford [2-(4-bromo-pyrazol-1-yl)-ethyl]-methyl-carbamic acid tert-butyl ester (541 mg, 87%).

reactant | Diethylazodicarboxylate | 3.1 mmol, 0.48 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 3.1 mmol, 0.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromopyrazole | 2.0 mmol, 0.30 mg | BrC=1C=NNC1 | C3H3BrN2
reactant | (2-hydroxyethyl)-methyl-carbamic acid tert-butyl ester | 2.6 mmol, 0.45 g | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [2-(4-bromo-pyrazol-1-yl)-ethyl]-methyl-carbamic acid tert-butyl ester | 541 mg, 87% | C(C)(C)(C)OC(N(C)CCN1N=CC(=C1)Br)=O | C11H18BrN3O2
